US04990508
In 486 ml of N,N-dimethylformamide was dissolved 8.6 g of methyl 4-diphenylmethoxycarbonylmethyl-2,3,5,6tetrafluorobenzoate. To the resulting solution were added 3.54 g of paraformaldehyde and 61 mg of sodium methylate in this order. The resulting mixture was stirred at room temperature for 2 hours. To the reaction mixture were added 300 ml of ethyl acetate and 800 ml of water in this order. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: toluene/ethyl acetate=10/1) to obtain 35.0 g (yield: 67.0%) of methyl 4-(1-diphenylmethoxycarbonyl-2-hydroxyethyl)-2,3,5,6-tetrafluorobenzoate.

reactant | methyl 4-diphenylmethoxycarbonylmethyl-2,3,5,6tetrafluorobenzoate | 8.6 g | C1(=CC=CC=C1)C(OC(=O)CC1=C(C(=C(C(=O)OC)C(=C1F)F)F)F)C1=CC=CC=C1 | C23H16F4O4
reactant | paraformaldehyde | 3.54 g | C=O | CH2O
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 800 ml | O | H2O
solvent | N,N-dimethylformamide | 486 ml | CN(C=O)C | C3H7NO
catalyst | sodium methylate | 61 mg | C[O-].[Na+]
product | methyl 4-(1-diphenylmethoxycarbonyl-2-hydroxyethyl)-2,3,5,6-tetrafluorobenzoate | 35.0 g, yield: 67.0% | C1(=CC=CC=C1)C(OC(=O)C(CO)C1=C(C(=C(C(=O)OC)C(=C1F)F)F)F)C1=CC=CC=C1 | C24H18F4O5
